Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Wellbutrin
 
Attending: ___.
 
Chief Complaint:
"I need some help."  

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
For full details of initial history and physical, please see Dr.
___ comprehensive initial psychiatric consultation
notes dated ___.

___ is a ___ year old man with reported history of
Bipolar Disorder and Anxiety who presents with worsening anxiety
and depressed mood with SI in the setting of non-adherence with
Quetiapine and Buspirone for the past several months.

On Deac4 admission interview patient reports worsening anxiety
over the past year resulting in losing his job working at an
___ and then subsequently quitting work as ___ due to overwhelming anxiety related to rude passengers. 
He has not been able to find other work and is homeless, staying
on people's couches and relying on financial generosity form
family and friends.  Over the summer he started "planning my
disappearance of sorts" in which he would cash in his 401k and
move to ___ without telling anyone.  This ultimately did
not work out and he remained in ___, but is still very 
unhappy
and comes up with other "escape plans" regarding spontaneously
moving to different countries.  Approximately ___ months ago he
decided to self-discontinue his psychiatric medications 
(Seroquel
and Buspar) "so that medications would not get in the way of
getting an accurate psychiatric diagnosis."

Over the past week he has come to the realization that none of
these "escape plans" are realistic which has caused him to feel
hopeless.  He reports worsening mood, low energy, poor sleep, a
desire to be completely isolated and "unbearable" anxiety.  He
states that there is a need he has that he cannot describe which
he is afraid will never be fulfilled.  He states he has been
suicidal on and off since age ___ but recently he has had
continuous thoughts of ending his own life with tentative plan 
to
jump off a bridge "and no one would ever know what happened to
me."  He states he formerly resisted suicide out of respect for
his family but now he is becoming increasingly distanced from
them and this is no longer as protective as it was before.  He
currently endorses passive SI without plan and states that he
will notify a staff member on the unit if this changes.  He
states he feels "cautiously hopeful" about being on the unit and
hopes to get better.

Patient makes several loose statements when attempting to
describe what he believes his psychiatric issues to be.  At one
point he states, "I have a weird relationship to knowledge and
information" but is unable to describe further what this means. 
He denies HI or AVH.  Reports a history of risky behaviors such
as shoplifting and prostitution however these were both done out
of need to obtain items or make money.

Patient was oriented to the unit and informed to contact staff
with questions or issues.

 
Past Medical History:
- Chronic sinusitis
- Irritable bowel syndrome
- Right leg laceration in ___ secondary to skiing accident
- ___ versicolor, not currently active per patient

 
Social History:
- B/R: Born in ___ raised in a ___ family
- Employment/Income: Unemployed; recently on short-term
disability because of anxiety and depression.  Recently worked 
as
___ but had to stop because rude customers would 
cause
him significant distress; Previously worked for an ___ for ___ years
- Education Level: ___ years of college (___ and ___)
- Living Situation: Currently homeless and staying on a friend's
couch
- ___: No recent romantic relationships,
stating that he prefers "friends with benefits," so that he does
not have to get intimately involved with someone.  Had been
engaged approximately 6 months ago, but that relationship
ultimately ended because his he believed his fiancé was treating
him poorly - reports that this person became "the person I hated
the most in the world."  
- Religion: Born and raised Mormon, but left the church
approximately ___ years ago.
- Trauma: Reports being raped by two friends at age ___ after a
night of drinking and Ambien ingestion

 
Family History:
- Completed or attempted suicide: Unconfirmed suicide by
grandfather
- ___ use or dependence: Denies
- Mental Illness: Mother and father with "severe depression;"
brother with severe anxiety.

 
Physical Exam:
VS:  T: 97.9 HR: 63 BP: 128/77 resp: 16 SpO2: 100% on RA Weight:
179.8 lbs
Heart: regular rate and rhythm, normal S1 and S2, no murmurs
appreciated
Lungs: clear to auscultation bilaterally, no wheezes, rales or
rhonchi appreciated
Abdomen: non-tender to palpation, normoactive bowel sounds x4,
non-distended, no guarding, masses or rebound
Extremities: warm and well perfused, no edema in bilateral lower
extremities
Neuro: pupils reactive to direct and near (3mm-2mm); EOMI;
muscles of facial expression intact and symmetric bilaterally;
shoulder-shrugs symmetric; light touch diffusely intact; 
strength
___ throughout UE and ___

 
___ Results:
___ 10:26PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 10:26PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 09:25AM   GLUCOSE-91 UREA N-16 CREAT-1.1 SODIUM-141 
POTASSIUM-4.7 CHLORIDE-103 TOTAL CO2-30 ANION GAP-13
___ 09:25AM   estGFR-Using this
___ 09:25AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 09:25AM URINE  HOURS-RANDOM
___ 09:25AM URINE  HOURS-RANDOM
___ 09:25AM URINE  HOURS-RANDOM
___ 09:25AM URINE  UHOLD-HOLD
___ 09:25AM URINE  GR HOLD-HOLD
___ 09:25AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 09:25AM   WBC-7.4 RBC-4.72 HGB-15.3 HCT-45.6 MCV-97 
MCH-32.4* MCHC-33.6 RDW-12.3 RDWSD-44.3
___ 09:25AM   NEUTS-50.4 ___ MONOS-5.8 EOS-2.7 
BASOS-0.7 IM ___ AbsNeut-3.72 AbsLymp-2.96 AbsMono-0.43 
AbsEos-0.20 AbsBaso-0.05
___ 09:25AM   PLT COUNT-209
 
Brief Hospital Course:
*) LEGAL / SAFETY
The patient was admitted to an locked inpatient psychiatric 
unit. Hesigned a CV which was accepted on ___. On admission 
he was placed on Q15 minute checks which is the lowest level of 
observation provided on this unit. On admission she was placed 
on monitored access of sharps
 

PSYCHIATRIC
#)Bipolar disorder I, current depressive episode
On admission, pt appears dysthymic, tearful and has somewhat 
labile affect. He endorses full neurovegetative symptoms, and 
passive suicidal ideations. He endorses significant anxiety 
associated with his depressive mood. Pt has self-stopped his 
outpatient psychiatric medication Seroquel and Buspar 2 months 
prior to his current admission. 
During hospitalization, he was started on Latuda 20mg qhs for 
bipolar depression treatment. It gradually titrated up to 60mg 
qhs.  Pt tolerated the treatment well, without side effects 
noted. He was given Buspar 15mg BID for anxiety. But since pt 
reports negative side effects from the Buspar, it was changed to 
Buspar 10mg PO TID PRN. He was also given hydroxyzine 25mg q6h 
PRN for anxiety. 
We also sought out ___ testing w/ our psychologist during pt's 
admission.  Results showed a high propensity for borderline 
personality.  Team also appreciated this clinically, as pt 
engaged in a lot of staff splitting.  Mr. ___ told us, 
however, that he did not think the borderline diagnosis fit him. 


On discharge, pt reports improved depressive mood and anxiety 
with the current medication regimen. He denies SI. 

Safety: The patient remained in good behavioral control 
throughout this hospitalization and did not require physical or 
chemical restraint. The patient remained on 15 minute checks, 
which is our lowest acuity level of checks.

GENERAL MEDICAL CONDITIONS
# IBS: patient had some episodes of diarrhea but often 
alternates
with constipation
- Metamucil PRN for constipation, patient declined medication 
for
diarrhea

# Chronic sinusitis
- Continue home Flonase 1 spray per nostril QD

PSYCHOSOCIAL
#) MILIEU/GROUPS
The patient was participatory in some of the milieu. The patient 
was visible on the unit. He had minimal contact with the peers 
in the unit. He attended some groups. He never engaged in any 
unsafe behaviors. The pt ate all meals in the milieu, slept 
well, and cooperated with unit rules.

#) FAMILY CONTACTS
No family meeting was conducted, given pt has poor relationship 
with family members. He does not want his family to be 
contacted. 

#) COLLATERAL
Outside hospital record was collected from ___. 

#) INTERVENTIONS:
- Medications: 
Latuda 60mg PO qhs
Buspar 10mg PO TID PRN for anxiety
Hydroxyzine 25mg q6h PRN for anxiety/insomnia
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.

LEGAL STATUS
The pt remained on a CV throughout the duration of this 
admission.

#RISK ASSESSMENT
Low imminent risk of harm/violence to self/others.

CHRONIC/STATIC RF
-White
-Man
-Unemployed
-Single
-Chronic mental illness 
-Prior hx of psychiatric hospitalization
-Multiple failed psychiatric medication trials

MODIFIABLE RF
- Depression - we mitigated this by treating the patient with 
medication. He tolerated therapies well and was much improved at 
time of d/c with no significant neurovegetative symptoms. 
-Supports - pt had no outpt treaters and we modified this by 
assigning him to the Arbour HRI partial. And offered resources 
to set up outpatient therapist and psychiatrist. 
-Substance Use - pt was advised strongly to avoid etoh/drugs. We 
provided psychoeducation and referrals for him as an outpatient. 

 He understood the risks of use and appears to be in the 
motivated stage of recovery.
-Personality traits- we conducted a personality assessment with 
the pt. Based on the assessment result, he has a significant 
component of borderline personality traits, ego-syntonic traits, 
anxiety, depression, irritability, and inter-personality 
distrust. 

PROTECTIVE FACTORS

- Help seeking behavior - pt was able to acknowledge that he 
needs help and willing to be admitted 
- No prior suicidal attempts-pt had passive suicidal thoughts, 
but no prior intention or attempts to suicide

#PROGNOSIS
Guarded- Pt is prone to relapse into depression given 
nature of his illness and h/o many failed medication trials. His 
borderline personality traits and substance use history are also 
significant contributors to his high suicidality and refractory 
depressive symptoms. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate NASAL 1 SPRY NU DAILY 

 
Discharge Medications:
1. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
2. BusPIRone 10 mg PO TID:PRN anxiety 
RX *buspirone 10 mg 1 tablet(s) by mouth three times a day PRN 
for anxiety Disp #*30 Tablet Refills:*0
3. HydrOXYzine 25 mg PO Q6H:PRN anxiety, insomnia 
RX *hydroxyzine HCl 25 mg 1 tablet by mouth every six (6) hours 
PRN for anxiety Disp #*30 Tablet Refills:*0
4. Latuda (lurasidone) 60 mg oral QPM with dinner 
RX *lurasidone [Latuda] 60 mg 1 tablet(s) by mouth at bedtime 
Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bipolar II, current depressive episode
General anxiety disorder
Borderline traits

 
Discharge Condition:
- Neurological:
   - station and gait: normal station and gait
   - tone and strength: Deferred
- Appearance: thin Caucasian male wearing glasses, appears
stated age, good personal hygiene, in no acute distress.
- Behavior: Mostly cooperative with interview. Makes fair eye
contact.
- Mood and Affect: 'better' / Appears somewhat dysthymic with
restricted affect, affect is labile at times. Overall affect
congruent with the conversation
- Thought process: Linear, goal-oriented,
- Thought Content: Denies SI/HI/AVH, 
- Judgment and Insight: fair/fair
- Cognition:
   - Attention, orientation, and executive function: Attentive
to interview, oriented to context and history
   - Memory: Intact to history
   - Fund of knowledge: Appropriate
   - Speech: Regular rate, rhythm, and volume.
   - Language: Fluent ___

 
Discharge Instructions:
Discharge Instructions
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwo
rk
 to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
*It was a pleasure to have worked with you, 
and we wish you the best of health.*

 
Followup Instructions:
___